US07511066B2
C. Methyl 4-Isopropyl-2-hydroxybenzoate
The 4-isopropyl-2-methoxymethoxybenzoic acid (5.3 g, 23.6 mmol) was dissolved in methylene chloride (75 mL) and MeOH (75 mL). Acetyl chloride (1 mL) was added to generate HCl. The reaction mixture was stirred for 2 h. The reaction was washed with water (2×150 mL), dried (MgSO4), and concentrated under vacuum. The crude product was dissolved in methylene chloride (100 mL) and MeOH (30 mL) and to this solution a 2 M hexane solution of (trimethylsilyl)diazomethane (11.8 mL, 23.6 mmol) was added dropwise. After 1 h, the solvent was removed under vacuum, giving the title compound as an oil.

reactant | 4-isopropyl-2-methoxymethoxybenzoic acid | 23.6 mmol, 5.3 g | C(C)(C)C1=CC(=C(C(=O)O)C=C1)OCOC | C12H16O4
reactant | Acetyl chloride | 1 mL | C(C)(=O)Cl | C2H3ClO
reactant | HCl | Cl | ClH
reactant | (trimethylsilyl)diazomethane | 23.6 mmol, 11.8 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 75 mL | CO | CH4O
solvent | MeOH | 30 mL | CO | CH4O
solvent | hexane | 2 M | CCCCCC | C6H14
product | Methyl 4-Isopropyl-2-hydroxybenzoate | C(C)(C)C1=CC(=C(C(=O)OC)C=C1)O | C11H14O3
